* Z:\home\sam\Documents\eagle\LockSequencer\LockSequencer-7.asc
XU2 0 N019 clock nReset N025 N019 N015 Vdd NE555
C1 N025 0 0.01e-6 V=16
C2 N019 0 1e-6 V=16
R1 Vdd N015 100e3
R2 N015 N019 100e3
XU1 Reset N020 clock N024 N026 N027 N029 N031 N032 N035 NC_01 NC_02 N020 NC_03 VDD 0 CD4017B VDD=11.298 SPEED=1.0 TRIPDT=5e-9
C3 N009 0 100e-6 V=16
R6 N009 0 7.5e3
R9 N009 Vdd 10e3
XU3 N017 N009 0 bu4933
R12 N017 N016 2.2e3
R14 Vdd Reset 10e3
XM2 Reset N016 0 F2N7002
XM1 nReset N028 0 F2N7002
R7 Vdd nReset 10e3
C5 N009 0 100e-9 V=16
D2 N026 N022 1N4148
D3 N027 N022 1N4148
D4 N029 N022 1N4148
D5 N029 N033 1N4148
D6 N031 N033 1N4148
D7 N032 N033 1N4148
D8 N038 N033 1N4148
D9 N035 N033 1N4148
D10 N037 N033 1N4148
C6 Vdd 0 10e-6 V=16
C7 Vdd 0 100e-9 V=16
L2 Vsupply N034 0.09 Rser=320
V2 Vexternal 0 PWL(0 0 .25 5 0.5 5 0.55 12.75 2 12.75 3 13.8 3.1 0) Rser=0.023
D14 Vbatt Vsupply 1N5819HW
R13 Vsupply N002 196
XD13 0 N002 mm3z12vt1g
C10 N002 0 100e-9 V=16
XD15 P001 N034 D1N5765
L3 Vsupply N011 0.09 Rser=320
XD17 P002 N011 D1N5765
S1 N003 Vbatt Vsupply N011 relay
L1 N003 0 .1 Rser=12
L4 N003 0 .1 Rser=12
V1 N012 0 PWL(0 0 13.19 0 13.2 12.6 16 12.6 16.01 0) Rser=0.023
S2 N012 N006 N012 0 SourceOn
V3 0 N021 PWL(0 0 20 0 20.01 12.6 22.00 12.6 22.01 0) Rser=0.023
S3 N021 N006 0 N021 SourceOn
D11 N008 N003 uf5406
S4 N030 Vbatt Vsupply N034 relay
L5 N030 0 .1 Rser=12
L6 N030 0 .1 Rser=12
R18 N018 N003 1
R19 N036 N030 1
C11 Vdd 0 100e-9 V=16
C12 Vdd 0 100e-9 V=16
C13 Vsupply 0 330e-6 V=16
C14 Vsupply 0 100e-9 V=16
XD19 N007 N010 D1N5765
R20 N007 Vsupply 2.2e3
S5 Vbatt Vexternal N001 0 SourceOn
V4 N001 0 PWL(0 1 3.1 1 3.11 0)
Q4 N010 N014 0 0 QPDTC123EM
R21 N014 N013 2.2e3
R22 0 N014 2.2e3
R26 N041 Vsupply 2.2e3
Q6 N040 N043 0 0 QPDTC123EM
R27 N043 N042 2.2e3
R28 0 N043 2.2e3
XD20 N041 N040 D1N5765
C4 N017 0 0.01e-6 V=16
R3 Reset N028 2.2e3
Q1 N011 N023 0 0 MMBTA05
R4 N023 N022 15.4e3
Q2 N034 N039 0 0 MMBTA05
R5 N039 N033 15.4e3
R10 N024 N013 15.4e3
R8 N042 N020 15.4e3
Q3 Vsupply N002 Vdd 0 MMBTA05
R11 P002 Vsupply 2.2e3
R15 P001 Vsupply 2.2e3
D1 N005 N003 uf5406
XD12 N036 0 KE15CA
XD16 Vsupply N034 KE15CA
XD18 Vsupply N011 KE15CA
XD21 N018 0 KE15CA
R16 N006 N005 .1
R17 N006 N008 .1
.model D D
.lib C:\users\sam\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\sam\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 23 startup
.lib MM3Z12VT1G.LIB
.lib PDTC123EM.prm
.lib 2N7002.lib
.MODEL 1N5819HW D ( IS=191u RS=42.0m BV=40.0 IBV=1.00m CJO=239p  M=0.333 N=1.70 TT=7.20n )
.lib LED.lib
.MODEL relay SW(Ron=10e-3 Roff=1e12 Vt=4.5 Vh=3.9)
.model uf5406 d(is = 1.15563E-005 n = 3.45 rs = 0.0887337 eg = 1.11 xti = 3 cjo = 9.14327E-011 vj = 0.298558 m = 0.347605 fc = 0.5  tt = 1.57227E-007 bv = 660 ibv = 0.3 af = 1 kf = 0)
.MODEL SourceOn SW(Ron=1e-12 Roff=1e12 Vt=0.02 Vh=0.001)
.lib 1_5KE.lib
.MODEL MMBTA05  NPN (IS=51.3f NF=1.00 BF=547 VAF=139 IKF=0.146 ISE=11.1p NE=2.00 BR=4.00 NR=1.00 VAR=16.0 IKR=0.360 RE=0.223 RB=0.892 RC=89.2m XTB=1.5 CJE=58.7p VJE=1.10 MJE=0.500 CJC=18.9p VJC=0.300 MJC=0.300 TF=631p TR=110n EG=1.12 )
.lib BU4933.LIB
.lib Cd4000.Lib
.lib NE555.sub
.backanno
.end
