* Z:\home\sam\Documents\eagle\LockSequencer\LockSequencer-7.asc
XU2 0 N018 clock nReset N024 N018 N015 Vdd NE555
C1 N024 0 0.01e-6 V=16
C2 N018 0 1e-6 V=16
R1 Vdd N015 100e3
R2 N015 N018 100e3
XU1 Reset N019 clock N023 N025 N026 N028 N029 N030 N033 NC_01 NC_02 N019 NC_03 VDD 0 CD4017B VDD=11.298 SPEED=1.0 TRIPDT=5e-9
C3 N009 0 100e-6 V=16
R6 N009 0 7.5e3
R9 N009 Vdd 10e3
XU3 N017 N009 0 bu4933
R12 N017 N016 2.2e3
R14 Vdd Reset 10e3
XM2 Reset N016 0 F2N7002
XM1 nReset N027 0 F2N7002
R7 Vdd nReset 10e3
C5 N009 0 100e-9 V=16
D2 N025 N021 1N4148
D3 N026 N021 1N4148
D4 N028 N021 1N4148
D5 N028 N031 1N4148
D6 N029 N031 1N4148
D7 N030 N031 1N4148
D8 N036 N031 1N4148
D9 N033 N031 1N4148
D10 N035 N031 1N4148
C6 Vdd 0 10e-6 V=16
C7 Vdd 0 100e-9 V=16
L2 Vsupply N032 0.09 Rser=320
V2 Vexternal 0 PWL(0 0 .25 5 0.5 5 0.55 12.75 2 12.75 3 13.8 3.1 0) Rser=0.023
D14 Vbatt Vsupply 1N5819HW
R13 Vsupply N002 196
XD13 0 N002 mm3z12vt1g
C10 N002 0 100e-9 V=16
XD15 P001 N032 D1N5765
L3 Vsupply N011 0.09 Rser=320
XD17 P002 N011 D1N5765
S1 N003 Vbatt Vsupply N011 relay
L1 N003 0 .1 Rser=12
L4 N003 0 .1 Rser=12
V1 N012 0 PWL(0 0 13.19 0 13.2 12.6 16 12.6 16.01 0) Rser=0.023
S2 N012 N006 N012 0 SourceOn
V3 0 N020 PWL(0 0 20 0 20.01 12.6 22.00 12.6 22.01 0) Rser=0.023
S3 N020 N006 0 N020 SourceOn
D11 N008 N003 uf5406
S4 N034 Vbatt Vsupply N032 relay
L5 N034 0 .1 Rser=12
L6 N034 0 .1 Rser=12
C11 Vdd 0 100e-9 V=16
C12 Vdd 0 100e-9 V=16
C13 Vsupply 0 330e-6 V=16
C14 Vsupply 0 100e-9 V=16
XD19 N007 N010 D1N5765
R20 N007 Vsupply 2.2e3
S5 Vbatt Vexternal N001 0 SourceOn
V4 N001 0 PWL(0 1 3.1 1 3.11 0)
Q4 N010 N014 0 0 QPDTC123EM
R21 N014 N013 2.2e3
R22 0 N014 2.2e3
R26 N039 Vsupply 2.2e3
Q6 N038 N041 0 0 QPDTC123EM
R27 N041 N040 2.2e3
R28 0 N041 2.2e3
XD20 N039 N038 D1N5765
C4 N017 0 0.01e-6 V=16
R3 Reset N027 2.2e3
Q1 N011 N022 0 0 MMBTA05
R4 N022 N021 15.4e3
Q2 N032 N037 0 0 MMBTA05
R5 N037 N031 15.4e3
R10 N023 N013 15.4e3
R8 N040 N019 15.4e3
Q3 Vsupply N002 Vdd 0 MMBTA05
R11 P002 Vsupply 2.2e3
R15 P001 Vsupply 2.2e3
D1 N005 N003 uf5406
XD18 Vsupply N011 KE15CA
XD21 N003 0 KE15CA
R16 N006 N005 .1
R17 N006 N008 .1
XD12 N034 0 KE15CA
XD16 Vsupply N032 KE15CA
.model D D
.lib C:\users\sam\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\sam\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 23 startup
.lib MM3Z12VT1G.LIB
.lib PDTC123EM.prm
.lib 2N7002.lib
.MODEL 1N5819HW D ( IS=191u RS=42.0m BV=40.0 IBV=1.00m CJO=239p  M=0.333 N=1.70 TT=7.20n )
.lib LED.lib
.MODEL relay SW(Ron=10e-3 Roff=1e12 Vt=4.5 Vh=3.9)
.model uf5406 d(is = 1.15563E-005 n = 3.45 rs = 0.0887337 eg = 1.11 xti = 3 cjo = 9.14327E-011 vj = 0.298558 m = 0.347605 fc = 0.5  tt = 1.57227E-007 bv = 660 ibv = 0.3 af = 1 kf = 0)
.MODEL SourceOn SW(Ron=1e-12 Roff=1e12 Vt=0.02 Vh=0.001)
.lib 1_5KE.lib
.MODEL MMBTA05  NPN (IS=51.3f NF=1.00 BF=547 VAF=139 IKF=0.146 ISE=11.1p NE=2.00 BR=4.00 NR=1.00 VAR=16.0 IKR=0.360 RE=0.223 RB=0.892 RC=89.2m XTB=1.5 CJE=58.7p VJE=1.10 MJE=0.500 CJC=18.9p VJC=0.300 MJC=0.300 TF=631p TR=110n EG=1.12 )
.MODEL 1n4001 d(IS=1.22478e-08 RS=0.0414786 N=1.83369 EG=0.6 XTI=0.05 BV=50 IBV=5e-08 CJO=1e-11 VJ=0.7 M=0.5 FC=0.5 TT=1e-09 KF=0 AF=1)
.lib BU4933.LIB
.lib Cd4000.Lib
.lib NE555.sub
.backanno
.end
